US08038731B2
Step 2: 2,2′-(Disulphanediyldiethane-2,1-diyl)bis[6-{[3-(dimethylamino)propyl]-amino}-1H-benzo[de]isoquinoline-1,3(2H)-dione]
4 g of (6-chloro-2-(2-{[2-(6-chloro-1,3-dioxo-1H-benzo[de]isoquinolin-2(3H)-yl)ethyl]-disulphanyl}ethyl)-1H-benzo[de]isoquinoline-1,3(2H)-dione are suspended in 40 ml of N,N-dimethylpropane-1,3-diamine. The mixture is heated with stirring at 110° C. for 12 hours. After cooling, a yellow precipitate is collected, and 500 ml of a 1/1 ethanol/water mixture are added dropwise to the filtrate. The yellow paste obtained is isolated and triturated with 200 ml of acetone. The solids obtained are washed with 300 ml of water and dried. 4.5 g of yellow powder are recovered. The analyses show that the product is in accordance with the expected product.

reactant | 6-chloro-2-(2-{[2-(6-chloro-1,3-dioxo-1H-benzo[de]isoquinolin-2(3H)-yl)ethyl]-disulphanyl}ethyl)-1H-benzo[de]isoquinoline-1,3(2H)-dione | ClC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)CCSSCCN2C(C3=CC=CC=1C3=C(C2=O)C=CC1Cl)=O)=O | C28H18Cl2N2O4S2
reactant | N,N-dimethylpropane-1,3-diamine | 40 ml | CN(CCCN)C | C5H14N2
product | 2,2′-(Disulphanediyldiethane-2,1-diyl)bis[6-{[3-(dimethylamino)propyl]-amino}-1H-benzo[de]isoquinoline-1,3(2H)-dione] | S(SCCN1C(C2=CC=CC=3C2=C(C1=O)C=CC3NCCCN(C)C)=O)CCN3C(C1=CC=CC=2C1=C(C3=O)C=CC2NCCCN(C)C)=O | C38H44N6O4S2
